US09315521B2
A mixture of 4-(chloromethyl)-1-ethyl-5-methyl-1H-imidazole hydrochloride (450 mg, 2.3 mmol), 6-methyl-2-sulfanylpyrimidin-4-ol (215 mg, 1.5 mmol), and potassium carbonate (720 mg, 5.2 mmol) in acetone (15 mL) was stirred at room temperature for 3 days. The solid material was removed by filtration. The filtrate was recovered and evaporated. The crude product was purified by flash chromatography (0-6% MeOH/DCM), affording 2-{[(1-ethyl-5-methyl-1H-imidazol-4-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol (128 mg, 32% yield); 1H NMR (400 MHz, DMSO-d6): δ 1.26 (t, 3H, J=6.7 Hz), 2.18 (m, 6H), 3.86 (m, 2H), 4.26 (s, 2H), 5.95 (s, 1H), 7.55 (s, 1H); M+266. The product was used without further purification.

reactant | 4-(chloromethyl)-1-ethyl-5-methyl-1H-imidazole hydrochloride | 2.3 mmol, 450 mg | Cl.ClCC=1N=CN(C1C)CC
reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | 1.5 mmol, 215 mg | CC1=CC(=NC(=N1)S)O | C5H6N2OS
reactant | potassium carbonate | 5.2 mmol, 720 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 15 mL | CC(=O)C | C3H6O
product | 2-{[(1-ethyl-5-methyl-1H-imidazol-4-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | 128 mg, 32% yield | C(C)N1C=NC(=C1C)CSC1=NC(=CC(=N1)O)C | C12H16N4OS
